US07718808B2
At 0° C., trimethylsilylcyanide (3.52 mL, 26.4 mmol) was added to a mixture of dried zinc iodide (100 mg) and furfural (1.99 mL, 24.0 mmol), followed by stirring at 0° C. for 30 minutes. THF (20 mL) was added to the reaction mixture, and at −78° C., a 1.0 mol/L solution of lithium hexamethyldisilazide in THF (24.0 mL, 24.0 mmol) was added dropwise thereto, followed by stirring at the same temperature for 15 minutes. A solution (10 mL) of 2-methylbenzyl bromide (2.68 mL, 20.0 mmol) in THF was added to the reaction mixture, followed by stirring at room temperature for 1 hour. 1.0 mol/L tetra(n-butyl)ammonium fluoride (26.4 mL, 26.4 mmol) was added to the reaction mixture, followed by stirring at room temperature for 30 minutes. A saturated aqueous solution of ammonium chloride was added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer was washed successively with a saturated, aqueous solution of ammonium chloride and a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate, and then the solvent was distilled away under reduced pressure. The resulting residue was purified through silica gel column chromatography, (hexane:ethyl acetate=4:1) to afford 1-(2-furyl)-2-(2-methylphenyl)ethanone (3.33 g, 83%).

reactant | trimethylsilylcyanide | 26.4 mmol, 3.52 mL | C[Si](C)(C)C#N | C4H9NSi
reactant | furfural | 24.0 mmol, 1.99 mL | C(C1=CC=CO1)=O | C5H4O2
reactant | lithium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | 2-methylbenzyl bromide | 20.0 mmol, 10 mL | CC1=C(CBr)C=CC=C1 | C8H9Br
reactant | tetra(n-butyl)ammonium fluoride | 26.4 mmol, 1.0 mol/L, 26.4 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | C1CCOC1 | C4H8O
catalyst | zinc iodide | 100 mg | [I-].[Zn+2].[I-]
solvent | THF | 24.0 mmol, 24.0 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-(2-furyl)-2-(2-methylphenyl)ethanone | 3.33 g, 83% | O1C(=CC=C1)C(CC1=C(C=CC=C1)C)=O | C13H12O2
